US05952511
To a solution of 0.404 g of (RS)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one in 20 ml of dry dimethyl sulfoxide was added 2.5 ml of a 1M solution of sodium hydride in dry dimethyl sulfoxide at room temperature under a nitrogen atmosphere. After stirring the mixture for 15 minutes, 0.19 ml of benzyl bromide was added thereto, followed by stirring at the same temperature for 30 minutes. The reaction mixture was poured into an aqueous solution of sodium chloride and extracted with ethyl ether. The ethyl ether layer was dried over anhydrous magnesium sulfate and concentrated to give (RS)-1-benzyl-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one.

reactant | (RS)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.404 g | OC(=O)CC1(C(NC2=CC=CC=C12)=O)NC(=O)NC1=CC=C(C=C1)C | C18H17N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 0.19 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (RS)-1-benzyl-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)O)=O | C25H23N3O4
